US06995162B2
3-(1-Methylpiperidin-4-yl)-5-trifluoromethyl-phenylamine was prepared from N-[3-(1-methylpiperidin-4-yl)-5-trifluoromethyl-phenyl]-acetamide similar to the procedure described in the preparation of 3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenylamine.

reactant | N-[3-(1-methylpiperidin-4-yl)-5-trifluoromethyl-phenyl]-acetamide | CN1CCC(CC1)C=1C=C(C=C(C1)C(F)(F)F)NC(C)=O | C15H19F3N2O
reactant | 3-(3-piperidin-1-yl-propyl)-5-trifluoromethyl-phenylamine | N1(CCCCC1)CCCC=1C=C(C=C(C1)C(F)(F)F)N | C15H21F3N2
product | 3-(1-Methylpiperidin-4-yl)-5-trifluoromethyl-phenylamine | CN1CCC(CC1)C=1C=C(C=C(C1)C(F)(F)F)N | C13H17F3N2
